US08624034B2
Step A) 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-tetrazole
Pd(dppf)Cl2 (70.2 mg, 0.10 mmol) was added to a suspension of 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (291 mg, 1.15 mmol), 2-(4-bromophenyl)-2H-tetrazole (215 mg, 0.96 mmol), and potassium acetate (191 mg, 1.91 mmol) in 1,4-dioxane (4.78 mL). The resulting suspension was heated to 80° C. and stirred at this temperature overnight. The reaction was allowed to cool, filtered through celite, and concentrated in vacuo. The crude product was purified via flash chromatography using a 40 g silica gel Redisep column and an eluent of EtOAc in n-heptane (0-50%) to afford the title compound as a light yellow solid (258 mg, 99%). MS (LCMS) m/z 273.2 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.36 (s, 12H) 7.66-7.73 (m, 2H) 7.96-8.02 (m, 2H) 9.01 (s, 1H).

reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 1.15 mmol, 291 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 2-(4-bromophenyl)-2H-tetrazole | 0.96 mmol, 215 mg | BrC1=CC=C(C=C1)N1N=CN=N1 | C7H5BrN4
reactant | potassium acetate | 1.91 mmol, 191 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 4.78 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.10 mmol, 70.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-tetrazole | 258 mg, 99% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1N=CN=N1)C | C13H17BN4O2
